US09212254B2
Tetrahydrofuran (82 mL) and n-decyltrichlorosilane (Tokyo Chemical Industry Co., Ltd., 14.5 g, 52.6 mmol) were placed in a 500 mL four-necked flask in a nitrogen atmosphere, and cooled to 0° C. n-decyl magnesium bromide (Sigma-Aldrich Co. LLC., 1.0 M, 58 ml) was added dropwise, and the mixture was agitated for 1 hour at 10° C. or less. The temperature was raised gradually to room temperature over the course of about 1 hour, and the mixture was left standing overnight. The precipitated salt was filtered out, the tetrahydrofuran was removed by concentration under reduced pressure, and distillation under reduced pressure was performed to obtain the target dichlorodi-n-decylsilane (Compound E21) (150° C./0.1-0.2 Torr, 13.1 g, yield 65%).

reactant | n-decyltrichlorosilane | 52.6 mmol, 14.5 g | C(CCCCCCCCC)[Si](Cl)(Cl)Cl | C10H21Cl3Si
reactant | n-decyl magnesium bromide | 1.0 M, 58 ml | C(CCCCCCCCC)[Mg]Br
solvent | Tetrahydrofuran | 82 mL | O1CCCC1 | C4H8O
product | dichlorodi-n-decylsilane | 13.1 g, yield 65% | Cl[Si](CCCCCCCCCC)(CCCCCCCCCC)Cl | C20H42Cl2Si
